US04390710
As described in the aforesaid Hofle et al article, 4-aminopyridines, e.g., dimethylaminopyridine, can be prepared by the reaction of N,N-dialkylformamide, e.g., N,N-dimethylformamide, with 1-(4-pyridinio) pyridinium dichloride at 140°-160° C. The latter compound is prepared by the reaction of thionyl chloride with pyridine. The analogous reaction of the pyridinium dichloride with N-formylpyrrolidine yields 4-pyrrolidinopyridine; with N-formylpiperidine yields 4-piperidinopyridine; and with N-formylmorpholine yields 4-morpholinopyridine.

reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | pyridinium dichloride | [Cl-].[Cl-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | N-formylpyrrolidine | C(=O)N1CCCC1 | C5H9NO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-pyrrolidinopyridine | N1(CCCC1)C1=CC=NC=C1 | C9H12N2
